US07405302B2
Step 2: 6-Chloro-2-iodo-pyridin-3-ylamine
5-Amino-2-chloropyridine (5.0 g, 0.039 mol) was dissolved in EtOH (25 mL), and silver sulfate (13.3 g, 0.043 mol) and iodine (10.9 g, 0.043 mol) were added. The reaction was stirred at room temperature overnight, and then the mixture was filtered over Celite to remove solids. The filtrate was concentrated and purified on silica gel (0-50% EtOAc in hexanes) to give the desired product.

reactant | 5-Amino-2-chloropyridine | 0.039 mol, 5.0 g | NC=1C=CC(=NC1)Cl | C5H5ClN2
reactant | iodine | 0.043 mol, 10.9 g | II | I2
solvent | EtOH | 25 mL | CCO | C2H6O
catalyst | silver sulfate | 0.043 mol, 13.3 g | S(=O)(=O)([O-])[O-].[Ag+2]
product | 6-Chloro-2-iodo-pyridin-3-ylamine | ClC1=CC=C(C(=N1)I)N | C5H4ClIN2
